US05246929
To a mixture of 2-(4-fluorophenyl)-3-oxo-3,4-dihydro-2H-1,4-benzothiazine (4.0 g), sodium borohydride (2.91 g) and tetrahydrofuran (100 ml) is added dropwise with stirring boron trifluoride etherate complex (12. 5 ml) at room temperature, and the mixture is refluxed for 1.5 hour. After cooling, to the mixture is added dropwise 10% hydrochloric acid (35 ml), and the mixture is further refluxed for one hour. The reaction mixture is poured into ice water and made alkaline with potassium carbonate and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and distilled to remove the solvent. The residue is recrystallized from isopropyl ether to give 2-(4-fluorophenyl)-3,4-dihydro-2H-1,4-benzothiazine (3.45 g, yield 91%) as crystals.

reactant | 2-(4-fluorophenyl)-3-oxo-3,4-dihydro-2H-1,4-benzothiazine | 4.0 g | FC1=CC=C(C=C1)C1SC2=C(NC1=O)C=CC=C2 | C14H10FNOS
reactant | sodium borohydride | 2.91 g | [BH4-].[Na+]
reactant | hydrochloric acid | 35 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-fluorophenyl)-3,4-dihydro-2H-1,4-benzothiazine | 3.45 g, yield 91% | FC1=CC=C(C=C1)C1SC2=C(NC1)C=CC=C2 | C14H12FNS
